US04530836
1.00 g of Boc-Ala-Tyr-Gly-Trp-Met-Asp-Phe-NH2 (m.p. 197°-200° C. Anal. Calcd. (%) for C48H61N9O12S: C, 58.35; H, 6.22; N, 12.75. Found (%): C, 58.35; H, 6.43; N, 12.61) was dissolved in 5 ml of trifluoroacetic acid containing 0.2 ml of ethanedithiol and reacted at room temperature for 30 minutes. Then 100 ml of anhydrous ether was added to the reaction mixture, and the resulting precipitate was filtered and dried. This deprotected heptapeptide was dissolved in 20 ml of DMF containing 0.14 ml of triethylamine, and 0.40 g of glutaric anhydride was added under cooling with ice. After 17-hour stirring at 4° C., the reaction mixture was distilled in vacuo to remove the solvent, and 1N citric acid was added to the residue to form a precipitate. It was washed with water and recrystallized from 20 ml of methanol, giving 0.77 g of Glt-Ala-Tyr-Gly-Trp-Met-Asp-Phe-NH2 ; yield 76.1%, m.p. 167°-170° C.

reactant | Boc-Ala-Tyr-Gly-Trp-Met-Asp-Phe-NH2 | 1.00 g | N([C@@H](C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N)C(=O)OC(C)(C)C | C48H61N9O12S
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanedithiol | C(C)(S)S | C2H6S2
product | Ala-Tyr-Gly-Trp-Met-Asp-Phe-NH2 | yield 76.1% | N[C@@H](C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N | C43H53N9O10S
